US06458830B1
2-Benzyloxy-1-(3,5-bis(trifluoromethyl)phenyl)-1-hydroxyethane
To a cooled (0° C.) solution of 3,5-bis(trifluoromethyl)styrene oxide (Description 12, 0.5 g) and benzyl alcohol (1 g) in tetrahydrofuran (10 ml) was added sodium hydride (50% in mineral oil, 48 mg). The solution was stirred at room temperature for 16 hours. A further addition of sodium hydride (20 mg) was made and the solution heated to reflux for 2 hours. The cooled solution was evaporated to dryness and the residue purified by chromatography on silica (eluting with increasing concentrations of ethyl acetate in isohexane 0-20%) to provide the title compound. 1H NMR (360 MHz, CDCl3) δ 3.22 (1H, d J 3.1 Hz), 3.48 (1H, dd J 8.2 Hz and 9.6 Hz), 3.67 (1H, dd J 9.7 Hz and 3.5 Hz), 4.57 (1H, s), 4.98 (1H, m), 7.23-7.37 (5H, m), 7.80 (1H, s), 7.83 (2H, s).

reactant | 3,5-bis(trifluoromethyl)styrene oxide | 0.5 g | FC(C=1C=C(C2CO2)C=C(C1)C(F)(F)F)(F)F | C10H6F6O
reactant | benzyl alcohol | 1 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | sodium hydride | 20 mg | [H-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Benzyloxy-1-(3,5-bis(trifluoromethyl)phenyl)-1-hydroxyethane | C(C1=CC=CC=C1)OCC(O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H14F6O2
